US06444694B1
4-{2-[2-(3,4-Dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-benzoimidazol-1-ylmethyl}-benzoic acid methyl ester
To a suspension of sodium hydride, 60% dispersion in oil (150 mg; 3.5 mmol) in 20 mL of DMF, {2-[2-(3,4-dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-1H-benzoimidazole (1.2 g; 3.25 mmol) in DMF (20 mL) was added dropwise over 5 minutes. After addition, the reaction mixture was stirred at ambient temperature for 30 minutes, then methyl-4-(bromomethyl)benzoate (745 mg; 3.25 mmol) in DMF (10 mL) was added. The reaction mixture was stirred at ambient temperature for 4 hours. The DMF was concentrated to a residue, and H2O was added. The solid was collected by filtration. Recrystallization from MeOH gave 620 mg (37% yield) of the title compound as a light yellow solid, hemihydrate, m.p. 111-114° C. Anal. Calcd. for C30H32N2O6—0.5 H2O: C, 68.56, H, 6.33; N, 5.33. Found: C, 68.51; H, 6.27; N, 5.28. Mass spectrum: (EI; M+) m/z 516.1H-NMR (DMSO-d6; 400 MHz) δ7.9(d, 2H), 7.72-7.78(d, 1H), 7.31(d, 1H), 7.2-7.26 (m, 4H), 6.95 (d, 1H), 5.9 (s, 2H), 4.12 (s, 3H), 3.81 (s 3H), 3.79 (s, 3H),3.77 (s, 3H), 3.53 (s, 3H), 2.1 ppm (d, 6H).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-[2-(3,4-dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-1H-benzoimidazole | 3.25 mmol, 1.2 g | COC=1C=C(C=CC1OC)C=CC1=NC2=C(N1)C(=C(C(=C2OC)C)C)OC | C21H24N2O4
reactant | methyl-4-(bromomethyl)benzoate | 3.25 mmol, 745 mg | COC(C1=CC=C(C=C1)CBr)=O | C9H9BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{2-[2-(3,4-Dimethoxyphenyl)-vinyl]-4,7-dimethoxy-5,6-dimethyl-benzoimidazol-1-ylmethyl}-benzoic acid methyl ester | 620 mg, 37% yield | COC(C1=CC=C(C=C1)CN1C(=NC2=C1C(=C(C(=C2OC)C)C)OC)C=CC2=CC(=C(C=C2)OC)OC)=O | C30H32N2O6
